US07109354B2
a) 6-Methanesulfonyl-hexan-1-ol
The reaction was conducted following the procedure for Example 171: step a, using 6-bromo-hexan-1-ol (0.300 g, 1.660 mmol), methane sulfinic acid, (0.844 g, 8.280 mmol), EtOH [2 mL], H2O, [2 mL]. Chromatography of the residue (1%–5% MeOH/DCM) yielded the title compound (0.141 g 48%). 1H-NMR (CDCl3): δ 3.67 (t, 2H, J=6.2 Hz), 3.03 (t, 2H, J=8.0 Hz), 2.92 (s, 3H), 1.89 (m, 2H), 1.60 (m, 2H), 1.46 (m, 4H).

reactant | 6-bromo-hexan-1-ol | 1.660 mmol, 0.300 g | BrCCCCCCO | C6H13BrO
reactant | methane sulfinic acid | 8.280 mmol, 0.844 g | CS(=O)O | CH4O2S
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | H2O | O | H2O
solvent | MeOH DCM | CO.C(Cl)Cl
product | 6-Methanesulfonyl-hexan-1-ol | 0.141 g, 48% | CS(=O)(=O)CCCCCCO | C7H16O3S
